US06403774B1
A suspension consisting of 60 g of azobisisobutyronitrile, 28 g of methanol and 270 ml of toluene was reacted by introducing 32 g of hydrogen chloride to obtain a toluene suspension of 2,2′-azobis(1-imino-1-methoxy-2-methylpropane) hydrochloride. The toluene suspension was neutralized with ammonia, followed by filtering to obtain a toluene solution of 2,2′-azobis(1-imino-1-methoxy-2-methylpropane). To the toluene solution was added 62 g of pyrrolidine, and reacted for 7 hours. After standing overnight, ethyl acetate was poured into the reaction solution, and crystals ware filtered and dried to obtain 10 g of pale yellow crystal of 2,2′-azobis [2-methyl-1-(N-pyrrolidinyl)iminopropane].

reactant | azobisisobutyronitrile | 60 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | hydrogen chloride | 32 g | Cl | ClH
reactant | 2,2′-azobis(1-imino-1-methoxy-2-methylpropane) hydrochloride | Cl.N(=NC(C(=N)OC)(C)C)C(C(OC)=N)(C)C
reactant | ammonia | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 28 g | CO | CH4O
product | 2,2′-azobis(1-imino-1-methoxy-2-methylpropane) | N(=NC(C(=N)OC)(C)C)C(C(OC)=N)(C)C | C10H20N4O2
